US07622462B2
5-(1H-indol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine was subjected to reductive amination using formaldehyde and sodium triacetoxyborohydride in 1,2-dichloroethane to give 5-(1H-indol-5-yl)-2-methyl-2,3,4,5-tetrahydro-1H-benzo[c]azepine as a white powder in 50% yield.

reactant | 5-(1H-indol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine | N1C=CC2=CC(=CC=C12)C1C2=C(CNCC1)C=CC=C2 | C18H18N2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(1H-indol-5-yl)-2-methyl-2,3,4,5-tetrahydro-1H-benzo[c]azepine | 50% yield | N1C=CC2=CC(=CC=C12)C1C2=C(CN(CC1)C)C=CC=C2 | C19H20N2
